* strained transfer eps_s=0.0
.include strain_wrap.inc
Veps eps_s 0 dc 0.0
Valp alpha 0 dc 0.0
Vdd d 0 dc -1.0
Vgs g 0 dc 0
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xwrap d g s b eps_s alpha strain_aware_device nu=0.47 beta=0.8 gamma=0.0 vth0=0.42 mu0=0.015 nu=0.47 beta=0.8 gamma=0.0 beta_r=0.0 gamma_r=0.0 tau_m=1e-15 tau_load=1e-12 tau_unload=1e-12
.dc Vgs -1.2 0.0 0.049999999999999996
.print dc v(eps_s) v(g) i(Vdd)
.end
